US04788201
1-N-Phenoxycarbonyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine
To a stirred suspension of 5.01 g of potassium carbonate, 50 ml of dichloromethane (dried over anhydrous magnesium sulfate) and 10.1 g of 1-N-methyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine was added dropwise a solution of 5.66 g of phenylchloroformate in 50 ml of dichloromethane (dried over anhydrous magnesium sulfate). The mixture was stirred 12 hr at ambient temperature and 6 hr at reflux under nitrogen. The suspension was poured into ice, extracted with dichloromethane, washed with 15% sodium hydroxide solution, 1N hydrochloric acid and saturated sodium chloride solution. The dichloromethane solution was dried over anhydrous sodium sulfate, filtered and the solvent evaporated to provide an oil. The oil was dissolved in ether, washed with water, 1N hydrochloric acid and saturated sodium chloride solution. The solution was dried over anhydrous sodium sulfate, filtered and the solvent evaporated to provide an oil. The oil was dried overnight at room temperature (1 mm) during which time it crystallized to provide 10.3 g (73.8%) of product. Recrystallization from cyclohexane/ethyl acetate provided the analytical sample, mp 82°-83°.

reactant | potassium carbonate | 5.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-N-methyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine | 10.1 g | CN1CCC(CC1)(OC1=C(C=C(C=C1)F)[N+](=O)[O-])C#C | C14H15FN2O3
reactant | phenylchloroformate | 5.66 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-N-Phenoxycarbonyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine | 10.3 g, 73.8% | O(C1=CC=CC=C1)C(=O)N1CCC(CC1)(OC1=C(C=C(C=C1)F)[N+](=O)[O-])C#C | C20H17FN2O5
